US04507297
Under cooling with ice, a methylene chloride solution (30 ml) of N,N'-dicyclohexylcarbodiimide (41.2 g) was added dropwise to a methylene chloride solution (70 ml) containing tert-butoxycarbonyl-L-leucine monohydrate (4.98 g) and N-hydroxy succinimide (2.30 g), and the mixture was stirred at room temperature for 4 hours. While cooling again with ice, 1-(2,3,4-trimethoxyphenylmethyl)piperazine=dihydrochloride (6.79 g) was added, and triethylamine (8.5 ml) was then added dropwise. The mixture was stirred overnight at room temperature. After removal of methylene chloride by distillation under reduced pressure, ethyl acetate was added to the residue, and any insoluble matters were removed by filtration. The filtrate was washed first with an aqueous sodium bicarbonate solution and then with an aqueous saturated sodium chloride solution, dried over sodium sulfate and distilled under reduced pressure to remove the solvent, whereupon a crude reaction mixture was obtained as an oily viscous substance. This substance was purified by silica gel column chromatography (developing solvent: chloroform:methanol=20:1) to yield 9.5 g of tert-butyl (s)-3-methyl-1-[4-(2,3,4-trimethoxyphenylmethyl)piperazine-1-yl carbonyl]butylcarbamate as a colorless oily viscous substance (yield: 99%).

reactant | N,N'-dicyclohexylcarbodiimide | 41.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tert-butoxycarbonyl-L-leucine monohydrate | 4.98 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | N-hydroxy succinimide | 2.30 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-(2,3,4-trimethoxyphenylmethyl)piperazine | COC1=C(C=CC(=C1OC)OC)CN1CCNCC1 | C14H22N2O3
reactant | dihydrochloride | 6.79 g | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | triethylamine | 8.5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (s)-3-methyl-1-[4-(2,3,4-trimethoxyphenylmethyl)piperazine-1-yl carbonyl]butylcarbamate | 9.5 g, yield: 99% | CC(C[C@@H](C(=O)N1CCN(CC1)CC1=C(C(=C(C=C1)OC)OC)OC)NC(OC(C)(C)C)=O)C | C25H41N3O6
